US07176316B2
(+/−)-4-Amino-N-phenyl-N-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-benzenesulfonamide
The title compound, MS (ISP): m/e=490.3 (M+H+), was prepared by hydrogenation of (+/−)-4-nitro-N-phenyl-N-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-benzenesulfonamide according to the following procedure. (+/−)-4-Nitro-N-phenyl-N-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-benzenesulfonamide (0.05 g, 0.096 mmol) was suspended in isopropanol (3 ml) and the mixture was purged with argon. Palladium hydroxide on charcoal was added to the suspension, which was then put under a hydrogen atmosphere and stirred at room temperature for 20 h. The catalyst was then filtered off and the solvent was evaporated, leaving the title compound as a white foamy solid (0.039 g, 82%).

reactant | (+/−)-4-Nitro-N-phenyl-N-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-benzenesulfonamide | 0.096 mmol, 0.05 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N(C1CCN(CC1)[C@H]1[C@H](CCCC1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H33N3O4S
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
product | (+/−)-4-Amino-N-phenyl-N-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-benzenesulfonamide | 0.039 g, 82% | NC1=CC=C(C=C1)S(=O)(=O)N(C1CCN(CC1)[C@H]1[C@H](CCCC1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H35N3O2S
